US09108938B2
2-Chloro-5-methyl-N-(2-morpholin-4-yl-2-pyridin-2-yl-ethyl)-benzamide
A mixture of (2-morpholin-4-yl-2-pyridin-2-ylethyl)amine (62.2 mg, 0.3 mmol), 2-chloro-5-methylbenzoic acid (54 mg, 0.315 mmol), PyBOP (187 mg, 0.36 mmol) and DIPEA (78 mg, 0.60 mmol) in DCM (1.5 mL) was stirred at room temperature overnight. The mixture was purified by preparative HPLC to yield the title compound (100 mg, yield: 90%). LCMS (Mt): m/z=360.0, tR (minutes, Method A)=0.89

reactant | (2-morpholin-4-yl-2-pyridin-2-ylethyl)amine | 0.3 mmol, 62.2 mg | N1(CCOCC1)C(CN)C1=NC=CC=C1 | C11H17N3O
reactant | 2-chloro-5-methylbenzoic acid | 0.315 mmol, 54 mg | ClC1=C(C(=O)O)C=C(C=C1)C | C8H7ClO2
reactant | PyBOP | 0.36 mmol, 187 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.60 mmol, 78 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 1.5 mL | C(Cl)Cl | CH2Cl2
product | 2-Chloro-5-methyl-N-(2-morpholin-4-yl-2-pyridin-2-yl-ethyl)-benzamide | 100 mg, yield: 90% | ClC1=C(C(=O)NCC(C2=NC=CC=C2)N2CCOCC2)C=C(C=C1)C | C19H22ClN3O2
